* WARNING : please consider following remarks before usage *
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal 
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions 
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*-----------------------------------------------------------------------------------------
** Standard Linear Ics Macromodels
** CONNECTIONS :
* 1 INVERTING INPUT
* 2 NON-INVERTING INPUT
* 3 OUTPUT
* 4 POSITIVE POWER SUPPLY
* 5 NEGATIVE POWER SUPPLY
*
.SUBCKT TS982 1 2 3 4 5 
*
.MODEL MDTH D IS=1E-8 KF=2.664234E-16 CJO=10F
*
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 8.125000E+00
RIN 15 16 8.125000E+00
RIS 11 15 2.238465E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 153.5u
VOFN 13 14 DC 0
IPOL 13 5 3.200000E-05
CPS 11 15 1e-9
DINN 17 13 MDTH 400E-12
VIN 17 5 -0.100000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 0.400000E+00
FCP 4 5 VOFP 1.865000E+02
FCN 5 4 VOFN 1.865000E+02
FIBP 2 5 VOFP 6.20000E-03
FIBN 5 1 VOFN 6.20000E-03
ICC 5 4 3.5m
* GM1 STAGE ***************
FGM1P 119 5 VOFP 1.1
FGM1N 119 5 VOFN 1.1
RAP 119 4 2.6E+06
RAN 119 5 2.6E+06
* GM2 STAGE *************** 
G2P 19 5 119 5 1.92E-02
G2N 19 5 119 4 1.92E-02
R2P 19 4 1E+07
R2N 19 5 1E+07
**************************
VINT1 500 0 5
GCONVP 500 501 119 4 19.38 
VP 501 0 0
GCONVN 500 502 119 5 19.38 
VN 502 0 0
********* orientation isink isource *******
VINT2 503 0 5
FCOPY 503 504 VOUT 1
DCOPYP 504 505 MDTH 400E-9
VCOPYP 505 0 0
DCOPYN 506 504 MDTH 400E-9
VCOPYN 0 506 0
***************************
F2PP 19 5 poly(2) VCOPYP VP 0 0 0 0 0.5 
F2PN 19 5 poly(2) VCOPYP VN 0 0 0 0 0.5 
F2NP 19 5 poly(2) VCOPYN VP 0 0 0 0 1.75 
F2NN 19 5 poly(2) VCOPYN VN 0 0 0 0 1.75 
* COMPENSATION ************
CC 19 119 30p
* OUTPUT ***********
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 4.0000E+02
VIPM 28 4 5.000000E+01
HONM 21 27 VOUT 4.00000E+02
VINM 5 27 5.000000E+01
VOUT 3 23 0
ROUT 23 19 6
COUT 3 5 1.300000E-10
DOP 19 25 MDTH 400E-12
VOP 4 25 0.5
DON 24 19 MDTH 400E-12
VON 24 5 0.5
.ENDS ;TS982